US06267913B1
4,4′-Bis-dioctylaminostilbene.
An oven dried 3-necked flask was fitted with a reflux condenser and purged with nitrogen. Into the flask was placed 4,4′-dibromostilbene (1.0 g, 2.96 mmol) (synthesized by the general Wittig procedure described above), tris(dibenzylideneacetone)dipalladium (Pd2(dba)3) (13.5 mg, 0.0148 mmol), o-tolylphosphine (13,5 mg, 0.044 mmol), and sodium t-butoxide (711 mg, 7.4 mmol) in 6 mL dry toluene. Dioctylamine (1.608 g, 6.65 mmol) was then added and the reaction mixture was stirred for 48 hours at 80° C. under nitrogen balloon atmosphere. The crude product was then adsorbed onto silica gel and purified via flash chromatography with gradual elutions from 98/2 to 95/5 (hexanes:ethyl acetate). 1H NMR (d6-acetone) δ 0.89 (m, 12H), 1.20-1.70 (m, 24H), 3.34 (t, J=7.51 Hz, 8H), 6.66 (d, J=8.75 Hz, 4H), 6.83 (s, 2H), 7.32 (d, J=8.62 Hz, 4H).

reactant | 4,4′-dibromostilbene | 2.96 mmol, 1.0 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
reactant | o-tolylphosphine | 0.044 mmol, 13,5 mg | C1(=C(C=CC=C1)P)C | C7H9P
reactant | sodium t-butoxide | 7.4 mmol, 711 mg | CC(C)([O-])C.[Na+]
reactant | Dioctylamine | 6.65 mmol, 1.608 g | C(CCCCCCC)NCCCCCCCC | C16H35N
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0148 mmol, 13.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4,4′-Bis-dioctylaminostilbene | C(CCCCCCC)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)N(CCCCCCCC)CCCCCCCC)CCCCCCCC | C46H78N2
